US06525064B1
4-{2-[4-amino-2-(ethoxymethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-1-yl]ethyl}-N,N-dimethylpiperidine-1-sulfonamide
Using the method of Examples 49-56, dimethylsulfamoyl chloride was reacted with 2-(ethoxymethyl)-6,7-dimethyl-1-(2-piperidin-4-ylethyl)-1H-imidazo[4,5-c]pyridin-4-amine to provide the desired product. The observed accurate mass was 439.2510.

reactant | dimethylsulfamoyl chloride | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | 2-(ethoxymethyl)-6,7-dimethyl-1-(2-piperidin-4-ylethyl)-1H-imidazo[4,5-c]pyridin-4-amine | C(C)OCC=1N(C2=C(C(=NC(=C2C)C)N)N1)CCC1CCNCC1 | C18H29N5O
product | 4-{2-[4-amino-2-(ethoxymethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-1-yl]ethyl}-N,N-dimethylpiperidine-1-sulfonamide | NC1=NC(=C(C2=C1N=C(N2CCC2CCN(CC2)S(=O)(=O)N(C)C)COCC)C)C | C20H34N6O3S
